US03945998
b. Preparation of 4-benzyloxymethyl-4-methyl-2-(4-nitrophenyl)oxazoline
2-Amino-3-benzyloxy-2-methylpropanol (13.5 grams) and 4-nitrobenzoic acid (11.7 grams) in dry xylene (100 milliliters) were heated together under reflux for 24 hours using a Dean-Stark trap for collection of the water formed during the reaction. The cooled solution was evaporated to dryness under reduced pressure and the residue was treated with ether and allowed to stand for 15 hours at 0°C. The yellow solid formed was recrystallized from ethanol to yield the desired product, melting point 65°-66°C.

reactant | 2-Amino-3-benzyloxy-2-methylpropanol | 13.5 grams | NC(CO)(COCC1=CC=CC=C1)C | C11H17NO2
reactant | 4-nitrobenzoic acid | 11.7 grams | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | xylene | 100 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | 4-benzyloxymethyl-4-methyl-2-(4-nitrophenyl)oxazoline | C(C1=CC=CC=C1)OCC1(N=C(OC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C18H18N2O4
